US04933265
36.6 g of 5-amino-2-mercaptobenzimidazole and 17.1 g of pyridine were added to 250 ml of N,N-dimethylacetamide, and thereto was added dropwise 34.4 g of phenyl chloroformate at room temperature. After the resulting solution as such was stirred for 1.5 hours at room temperature, 1.5 liters of ice cooled water was added to deposit crystals, which were filtered off and recrystallized from acetonitrile, whereby 47.7 g of 2-mercapto-5-phenoxycarbonylaminobenzimidazole was obtained.

reactant | 5-amino-2-mercaptobenzimidazole | 36.6 g | NC1=CC2=C(N=C(N2)S)C=C1 | C7H7N3S
reactant | pyridine | 17.1 g | N1=CC=CC=C1 | C5H5N
reactant | N,N-dimethylacetamide | 250 ml | CN(C(C)=O)C | C4H9NO
reactant | phenyl chloroformate | 34.4 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | water | O | H2O
product | 2-mercapto-5-phenoxycarbonylaminobenzimidazole | 47.7 g | SC=1NC2=C(N1)C=CC(=C2)NC(=O)OC2=CC=CC=C2 | C14H11N3O2S
